US08470831B2
Sodium hydride (60% suspension in mineral oil) (1.44 g, 36 mmol) was added in small portions at 0° C. to a solution of triethyl phosphonoacetate (5.94 ml, 30 mmol) in dry THF (60 ml). 3-hydroxy-4-nitrobenzaldehyde (5.01 g, 30 mmol) was dissolved in THF (50 ml), cooled to 0° C. and sodium hydride (1.44 g, 36 mmol) was added in small portions to it. After 15 min., this solution was added dropwise at 0° C. to the previously described solution and the resulting suspension was stirred at RT for 1.5 hrs. Then it was poured in HCl solution (150 ml, 0.5 N) and extracted with AcOEt. This was dried and evaporated and the crude residue was treated with SnCl2 (25 g, 111 mmol) in AcOEt (200 ml) and refluxed for 2.5 hrs. After cooling to RT, the reaction was worked up with 5% sodium bicarbonate and 10% sodium potassium tartrate solutions, AcOEt was separated, dried and evaporated. The residue was crystallized with diethyl ether and petroleum ether, giving 4.85 g of (E)-3-(4-amino-3-hydroxy-phenyl)-acrylic acid ethyl ester as a brown solid.

reactant | Sodium hydride | 36 mmol, 1.44 g | [H-].[Na+]
reactant | 3-hydroxy-4-nitrobenzaldehyde | 30 mmol, 5.01 g | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | sodium hydride | 36 mmol, 1.44 g | [H-].[Na+]
reactant | SnCl2 | 111 mmol, 25 g | Cl[Sn]Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | HCl | 0.5 N, 150 ml | Cl | ClH
solvent | AcOEt | 200 ml | CCOC(=O)C | C4H8O2
product | (E)-3-(4-amino-3-hydroxy-phenyl)-acrylic acid ethyl ester | 4.85 g | C(C)OC(\C=C\C1=CC(=C(C=C1)N)O)=O | C11H13NO3
